* Z:\mnt\design.r\spice\examples\1562.asc
V2 N007 0 5
R1 N002 N006 13K
R2 N002 A 10K
R3 N005 N004 5.62K
R4 N001 N004 10K
R5 N004 N003 10K
R6 N002 N001 10K
R7 N010 N009 10K
R8 N012 N009 5.62K
R9 N009 N003 10K
R10 N011 B 10K
R11 N011 N013 13K
R12 N011 N010 10K
V3 N003 0 ac 1
XU1 N004 N005 N001 MP_01 N007 MP_02 MP_03 N010 N012 N009 N011 N013 B MP_04 0 N008 MP_05 A N006 N002 LTC1562
V1 N008 0 -5
.ac oct 100 10K 1Meg
.lib LTC1562.sub
.backanno
.end
